US07671058B2
Preparation of 4-(2-fluoro-4-nitrophenoxy)-1-methylpiperidine
A solution of 4-hydroxy-1-methylpiperidine (0.30 g, 2.65 mmol) in anhydrous tetrahydrofuran (6 ml) was added dropwise to a suspension of 60% sodium hydride (0.054 g, 2.27 mmol) in anhydrous tetrahydrofuran (6 ml) under ice cooling, and the mixture was stirred at room temperature for 1 hour. 3,4-Difluoronitrobenzene (0.30 g, 1.89 mmol) was added to the reaction mixture under ice cooling, and the mixture was refluxed for 3 hours. Ice water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to give the title compound (0.18 g, 38%) as a yellow crystal.

reactant | 4-hydroxy-1-methylpiperidine | 2.65 mmol, 0.30 g | OC1CCN(CC1)C | C6H13NO
reactant | sodium hydride | 2.27 mmol, 0.054 g | [H-].[Na+]
reactant | 3,4-Difluoronitrobenzene | 1.89 mmol, 0.30 g | FC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3F2NO2
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | 4-(2-fluoro-4-nitrophenoxy)-1-methylpiperidine | 0.18 g, 38% | FC1=C(OC2CCN(CC2)C)C=CC(=C1)[N+](=O)[O-] | C12H15FN2O3
